* source 16
V_V1         N00240 0  
+SIN 0 6 1K 0 0 0
V_V2         N00248 0  
+SIN 0 6 1K 0 0 0
V_V3         X3 0  
+SIN 0 1 1K 0 0 0
E_GAIN1         N00687 0 VALUE {2 * V(N00240)}
E_GAIN2         N00796 0 VALUE {6 * V(N00248)}
E_GAIN3         N00815 0 VALUE {-3 * V(X3)}
E_SUM1         N00701 0 VALUE {V(N00687)+V(N00796)}
E_SUM2         X 0 VALUE {V(N00701)+V(N00815)}
X_INTEG1    X Y SCHEMATIC2_INTEG1 

.subckt SCHEMATIC2_INTEG1 in out  
G_INTEG1         0 $$U_INTEG1 VALUE {V(in)} 
C_INTEG1         $$U_INTEG1 0 {1/1.0} 
R_INTEG1         $$U_INTEG1 0 1G 
E_INTEG1         out 0 VALUE {V($$U_INTEG1)} 
.IC         V($$U_INTEG1) = 0V
.ends SCHEMATIC2_INTEG1
