* source 23
X_U1         IN 0 OUT 0 N01913 N02009 +VS -VS AD627A
V_V1         +VS 0 +12
V_V2         -VS 0 -12
R_R1         N02009 N01913  40.2k TC=0,0 
C_C1         +VS 0  0.1u  TC=0,0 
C_C2         -VS 0  0.1u  TC=0,0 
V_V3         IN 0  AC 1
+SIN 0 100m 1k 0 0 0
