* source 23
V_V1         +VS 0 +12
V_V2         -VS 0 -12
R_R1         N01907 N01811  40.2k TC=0,0 
C_C1         +VS 0  0.1u  TC=0,0 
C_C2         -VS 0  0.1u  TC=0,0 
X_U1         IN N01911 OUT 0 N01811 N01907 +VS -VS AD627A
V_V3         IN N01911  
+SIN 0 100m 10k 0 0 0
