* source 13_4
X_U1A         CLK CLR $D_HI $D_HI Q0 M_UN0001 $G_DPWR $G_DGND 74107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         CLK CLR Q0 Q0 Q1 M_UN0002 $G_DPWR $G_DGND 74107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         CLK CLR N00723 N00723 Q2 M_UN0003 $G_DPWR $G_DGND 74107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         CLK CLR N00701 N00701 Q3 M_UN0004 $G_DPWR $G_DGND 74107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         Q0 Q1 N00723 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ CLR 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=1u 
+ 0s 0  
+ 5c 1  
X_U4A         Q0 Q1 Q2 N00701 $G_DPWR $G_DGND 7411 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
