* source 13_4
R_R2         N00169 VCC  10K TC=0,0 
R_R1         VC N00169  10K TC=0,0 
X_X1         0 VC OUT VCC N00214 VC N00169 VCC 555D PARAMS: MAXFREQ=3E6
C_C2         0 VC  47P  TC=0,0 
C_C1         0 N00214  10P  TC=0,0 
V_V1         VCC 0 5
.IC         V(VC )=0
