* source 12_21
R_R6         N05084 VCC  65k TC=0,0 
X_U1         N05094 N05328 VCC 0 VOUT LM324/5_1/TI
C_C2         N05094 N05108  10n  TC=0,0 
V_V1         VCC 0 5Vdc
R_R2         N05108 VOUT  609 TC=0,0 
R_R5         N05518 VOUT  60k TC=0,0 
C_C1         N05084 N05094  10n  TC=0,0 
R_R3         N05084 N05328  10k TC=0,0 
R_R1         N05084 N05094  600 TC=0,0 
D_D2         N05518 N05328 D1N4148 
R_R4         N05328 VOUT  30k TC=0,0 
R_R7         0 N05084  35k TC=0,0 
C_C3         0 N05084  10n  TC=0,0 
D_D1         N05328 N05518 D1N4148 
