* source 13_4
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
X_U1A         CLK $D_LO D1 D2 D3 D4 $G_DPWR $G_DGND 74HC393 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         D4 $D_LO D5 D6 D7 D8 $G_DPWR $G_DGND 74HC393 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3         D1 D2 D3 D4 D5 D6 D7 D8 $D_LO $D_LO B1 B2 B3 B4 B5 B6 B7 B8
+  $G_DPWR $G_DGND 74HC240 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2         D1 D2 D3 D4 D5 D6 D7 D8 $D_LO $D_LO A1 A2 A3 A4 A5 A6 A7 A8
+  $G_DPWR $G_DGND 74HC244 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
