* source DDDD
V_V1         V+ 0 12Vdc
V_V2         V- 0 -12Vdc
R_A1_R1         A1_N01011 OUT1  160k TC=0,0 
X_A1_U1A         A1_N01113 A1_N01011 V+ V- OUT1 AD648A
R_A1_R3         0 A1_N01113  910k TC=0,0 
R_A1_R2         A1_N01113 OUT1  160k TC=0,0 
C_A1_C1         0 A1_N01011  0.01u  TC=0,0 
R_A2_R1         A2_N01011 OUT2  100k TC=0,0 
X_A2_U1A         A2_N01113 A2_N01011 V+ V- OUT2 AD648A
R_A2_R3         0 A2_N01113  910k TC=0,0 
R_A2_R2         A2_N01113 OUT2  160k TC=0,0 
C_A2_C1         0 A2_N01011  0.01u  TC=0,0 
.IC         V(A1_N01011 )=0
.IC         V(A2_N01011 )=0
