* source BEHAVIOR MODEL CREATION
V_V1         N00220 0 DC 0Vdc AC 1Vac 
E_LOPASS1         LOPASS 0 CHEBYSHEV {V(N00220)} LP (10Hz 100Hz) 1dB 100dB
E_HIPASS1         HIPASS 0 CHEBYSHEV {V(N00220)} HP (50Hz 200Hz) 3dB 50dB
E_BPASS1         BANDPASS 0 CHEBYSHEV {V(N00220)} BP (100Hz 300Hz 1000Hz
+  10000Hz) 1dB 50dB
E_BREJ1         BANDREJ 0 CHEBYSHEV {V(N00220)} BR (10Hz 200Hz 300Hz 10000Hz)
+  1dB 50dB
