* source BEHAVIOR MODEL CREATION
X_INTEG1    IN_ABM OUT_M Expression_element_INTEG1 
E_ABM1         OUT_ABM 0 VALUE { 2*SDT(V(IN_ABM))    }
V_V1         IN_ABM 0  
+SIN 0 1 10 0 0 0

.subckt Expression_element_INTEG1 in out  
G_INTEG1         0 $$U_INTEG1 VALUE {V(in)} 
C_INTEG1         $$U_INTEG1 0 {1/2} 
R_INTEG1         $$U_INTEG1 0 1G 
E_INTEG1         out 0 VALUE {V($$U_INTEG1)} 
.IC         V($$U_INTEG1) = 0V
.ends Expression_element_INTEG1
