* source BEHAVIOR MODEL CREATION
V_V1         N00123 0 DC 0Vdc AC 1Vac 
R_R1         N00123 OUTA  1k TC=0,0 
C_C1         0 OUTA  10u  TC=0,0 
E_LAPLACE1         OUTB 0 LAPLACE {V(N00123)} {(1)/(1 + 0.01*S)}
