* source BEHAVIOR MODEL CREATION
V_CONST1         IN1 0 DC 8
V_CONST2         IN2 0 DC 3
E_SUM1         OUT1 0 VALUE {V(IN2)+V(IN1)}
E_MULT1         OUT3 0 VALUE {V(OUT1)*V(OUT2)}
E_DIFF1         OUT2 0 VALUE {V(IN2,IN1)}
E_GAIN1         OUT4 0 VALUE {-2 * V(OUT3)}
