* source COMMON_ARITHMETIC_CIRCUIT
X_U3         N02489 N02541 VCC 0 VOUT OP-07C/301/TI
R_R6         N02489 VCC/2  1k TC=0,0 
R_R5         N02541 VOUT  1k TC=0,0 
C_C2         VCC/2 N02489  1n  TC=0,0 
R_R4         N02537 N02541  1k TC=0,0 
V_V1         VCC 0 10Vdc
V_V2         0 N02537  
+PULSE 0 3 0 0 0 0.5M 0.0001
