* source COMMON WAVEFORM GENERATING CIRCUIT
R_R1         N06190 N06240  1k TC=0,0 
R_R3         N06240 VOUT  1k TC=0,0 
R_R5         VOUT N06284  1k TC=0,0 
R_R4         0 N06190  1k TC=0,0 
X_U1         N06240 N06284 VCC 0 VOUT LM324/5_1/TI
C_C1         N06190 N06284  1U  TC=0,0 
C_C3         0 VCC  1n  TC=0,0 
R_R2         N06190 VCC  1k TC=0,0 
C_C4         0 VCC  1n  TC=0,0 
C_C2         0 N06190  1n  TC=0,0 
V_V1         VCC 0 5Vdc
