* source COMPONENT CREATION
X_U1         N00195 N00191 VCC VSS OUT THS4031 
V_V1         IN 0  
+SIN 0 10m 1k 0 0 0
R_R1         IN N00191  1k TC=0,0 
R_R2         N00191 OUT  2k TC=0,0 
R_R3         0 N00195  680 TC=0,0 
V_V2         VCC 0 10
V_V3         VSS 0 -10
