* source GENERAL_DESIGN1
C_C2         N06943 N02107  10n  TC=0,0 
R_R11         N02107 VCC  10k TC=0,0 
R_R2         N02015 N02005  8k TC=0,0 
R_R12         0 N02107  10k TC=0,0 
R_R1         N02005 N02107  10k TC=0,0 
V_V1         VCC 0 5Vdc
C_C3         0 N02107  10u  TC=0,0 
R_R14         N06943 N02015  1k TC=0,0 
X_U3B         $D_HI N09369 N27738 $D_HI OUT_2 N09369 $G_DPWR $G_DGND 74LS74A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R6         0 OUT2  600 TC=0,0 
X_U2A         $D_HI N09355 OUT1 $D_HI N27738 N09355 $G_DPWR $G_DGND 74LS74A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         N02005 N06943 VCC 0 N02015 LM324
R_R15         N02015 OUT1  250 TC=0,0 
R_R16         0 OUT_1  600 TC=0,0 
X_U4B         VCC_2 N11813 VCC 0 N11785 LM324
C_C4         N11813 N11785  100n  TC=0,0 
R_R18         N11813 N11785  50k TC=0,0 
R_R17         N12428 N11813  1.5k TC=0,0 
C_C5         0 VCC_2  10u  TC=0,0 
R_R19         VCC_2 VCC  10k TC=0,0 
R_R20         0 VCC_2  10k TC=0,0 
C_C6         OUT_2 N12428  10u  TC=0,0 
R_R21         0 OUT3  600 TC=0,0 
C_C7         N11785 OUT3  10u  TC=0,0 
C_C8         OUT1 OUT_1  10u  TC=0,0 
R_R22         OUT_2 N283310  1.3k TC=0,0 
C_C9         N283310 OUT2  10u  TC=0,0 
C_C11         0 N36003  10u  TC=0,0 
R_R34         0 OUT4  600 TC=0,0 
R_R28         N36003 N36093  10k TC=0,0 
X_U6C         N36093 N36287 VCC 0 N36209 LM324
C_C13         OUT3 N41517  10u  TC=0,0 
C_C12         OUT2 N36281  10u  TC=0,0 
R_R32         N36003 VCC  10k TC=0,0 
R_R30         N41517 N36287  10k TC=0,0 
C_C31         N36209 OUT4  10u  TC=0,0 
R_R29         N36281 N36287  10k TC=0,0 
R_R27         N36003 N36093  10k TC=0,0 
R_R33         0 N36003  10k TC=0,0 
R_R31         N36287 N36209  10k TC=0,0 
R_R3         0 N37918  78.6 TC=0,0 
R_R48         0 OUT5  600 TC=0,0 
R_R4         N38136 VCC  10k TC=0,0 
R_R5         0 N38136  10k TC=0,0 
R_R47         OUT4 N37918  4.3k TC=0,0 
C_C29         N38136 0  10u  TC=0,0 
C_C28         N37918 N37928  10n  TC=0,0 
X_U7D         N38136 N37958 VCC 0 N37928 LM324
R_R46         N37958 N37928  154k TC=0,0 
C_C1         N37918 N37958  10n  TC=0,0 
C_C30         N37928 OUT5  10u  TC=0,0 
