* source AC SWEEP
V_V1         IN1 0 DC 0Vdc AC 1Vac 
V_V2         IN2 0 DC 0Vdc AC 1Vac 
C_C1         0 OUT1  1p  TC=0,0 
R_R1         IN1 OUT1  1k TC=0,0 
C_C2         IN2 OUT2  1u  TC=0,0 
R_R2         0 OUT2  1meg TC=0,0 
