* source DIGITAL SIGNAL SOURCE
V_V1         IN 0  
+SIN 0 5 100k 0 0 0
V_V2         V+ 0 5
V_V3         V- 0 -5
X_U1         N00347 IN V+ V- COMP V- LM311
X_U2A         COMP CLK OUT $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         N00347 COMP  33K TC=0,0 
R_R2         0 N00347  33K TC=0,0 
R_R3         COMP V+  1k TC=0,0 
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +.5u 0
+  +.5u 1
+ ENDREPEAT
