* source DIGITAL SIGNAL SOURCE
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +1u 1
+REPEAT FOREVER
+ +.5u 0
+  +.5u 1
+ ENDREPEAT
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00581 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=1u 
+ 0s 0  
+ 2c 1  
X_U1A         CLK N00581 $D_HI $D_HI Q0 M_UN0001 $G_DPWR $G_DGND 74107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         Q0 N00581 $D_HI $D_HI Q1 M_UN0002 $G_DPWR $G_DGND 74107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         Q1 N00581 $D_HI $D_HI Q2 M_UN0003 $G_DPWR $G_DGND 74107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         Q2 N00581 $D_HI $D_HI Q3 M_UN0004 $G_DPWR $G_DGND 74107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
