* source EXAM_1
R_R11         N06051 N06141  1k TC=0,0 
X_U1B         N06141 N06327 VCC 0 N06257 LM324
R_R15         N06327 N063851  1k TC=0,0 
C_C10         UI1 N063851  10u  TC=0,0 
C_C12         N06257 UI2  10u  TC=0,0 
R_R10         N06051 N06141  10k TC=0,0 
R_R16         N06327 N06257  10k TC=0,0 
V_V1         VCC 0 12Vdc
V_V2         UI1 0  
+SIN 0 0.1 500 0 0 0
R_R12         N06051 VCC  300k TC=0,0 
R_R14         N06327 N062891  10k TC=0,0 
R_R17         UI2 0  1k TC=0,0 
C_C9         UO1 N062891  10u  TC=0,0 
C_C11         0 N06051  10u  TC=0,0 
R_R13         0 N06051  100k TC=0,0 
R_R2         N09983 N10071  10k TC=0,0 
R_R5         N15352 N10371  10k TC=0,0 
R_R19         UO1 0  1k TC=0,0 
C_C2         0 N10371  10n  TC=0,0 
X_U1C         N10071 N10371 VCC 0 UO11 LM324
C_C6         UO11 N102391  10u  TC=0,0 
C_C1         0 N09983  10u  TC=0,0 
C_C8         0 UO1  100nf  TC=0,0 
R_R9         N10307 UO1  1k TC=0,0 
R_R3         N09983 VCC  50k TC=0,0 
R_R4         0 N09983  51k TC=0,0 
R_R8         N102391 N10307  5k TC=0,0 
R_R1         N10071 UO11  33k TC=0,0 
C_C7         0 N10307  100nf  TC=0,0 
C_C13         N12319 N12337  1n  TC=0,0 
R_R21         N12207 VCC  300k TC=0,0 
R_R20         0 N12207  100k TC=0,0 
R_R22         UI2 N12319  350k TC=0,0 
R_R23         0 N12319  800 TC=0,0 
X_U2B         N12207 N12337 VCC 0 UO2 LM324
C_C14         N12319 UO2  1n  TC=0,0 
R_R24         UO2 N12337  2meg TC=0,0 
R_R25         N15477 UO11  10k TC=0,0 
R_R26         N15481 UO11  10k TC=0,0 
X_U2C         N16099 N16134 VCC 0 N16256 LM324
R_R27         N16134 VCC  1k TC=0,0 
R_R28         N16099 VCC  1k TC=0,0 
R_R29         N16099 UO2  1k TC=0,0 
R_R30         N16134 N16165  1k TC=0,0 
R_R31         N16260 N16256  1k TC=0,0 
R_R32         N16260 0  1k TC=0,0 
R_R33         N16273 0  1k TC=0,0 
C_C15         UO1 N16165  1n  TC=0,0 
C_C16         N16260 N16273  1n  TC=0,0 
D_D3         N15352 N15477 D1N4148 
D_D4         N15481 N15352 D1N4148 
