* source LAYER CIRCUIT DESIGN
R_R1         N00385 IN1+  100 TC=0,0 
R_R2         0 IN1-  100 TC=0,0 
R_R3         OUT1 N00229  1k TC=0,0 
R_R4         IN2- N00389  100 TC=0,0 
R_R5         OUT2 N00262  1k TC=0,0 
C_C1         IN1- N00229  10u  TC=0,0 
C_C2         IN2- N00262  10u  TC=0,0 
V_V1         VCC 0 +12
V_V2         VEE 0 -12
V_V3         N00385 0 DC 0Vdc AC 1 
V_V4         N00389 0 DC 0Vdc AC 1 
M_A1_M2         A1_N03029 A1_N03075 A1_N03161 A1_N03161 M2SK1044
R_A1_R5         VEE OUT1  1k TC=0,0 
R_A1_R6         A1_N02857 VCC  1k TC=0,0 
R_A1_R3         VEE A1_N03161  200 TC=0,0 
R_A1_R2         A1_OUT+ VCC  5k TC=0,0 
R_A1_R7         0 A1_N03075  10k TC=0,0 
M_A1_M3         A1_N03075 A1_N03075 A1_N03167 A1_N03167 M2SK1044
M_A1_M1         A1_OUT- IN1+ A1_N03029 A1_N03029 M2SK1044
R_A1_R4         VEE A1_N03167  1k TC=0,0 
C_A1_C1         A1_N02857 VCC  10u  TC=0,0 
M_A1_M5         OUT1 A1_OUT- A1_N02857 A1_N02857 M2SJ114
M_A1_M6         A1_OUT+ IN1- A1_N03029 A1_N03029 M2SK1044
R_A1_R1         A1_OUT- VCC  5k TC=0,0 
M_A2_M2         A2_N03029 A2_N03075 A2_N03161 A2_N03161 M2SK1044
R_A2_R5         VEE OUT2  1k TC=0,0 
R_A2_R6         A2_N02857 VCC  1k TC=0,0 
R_A2_R3         VEE A2_N03161  200 TC=0,0 
R_A2_R2         A2_OUT+ VCC  5k TC=0,0 
R_A2_R7         0 A2_N03075  10k TC=0,0 
M_A2_M3         A2_N03075 A2_N03075 A2_N03167 A2_N03167 M2SK1044
M_A2_M1         A2_OUT- 0 A2_N03029 A2_N03029 M2SK1044
R_A2_R4         VEE A2_N03167  1k TC=0,0 
C_A2_C1         A2_N02857 VCC  10u  TC=0,0 
M_A2_M5         OUT2 A2_OUT- A2_N02857 A2_N02857 M2SJ114
M_A2_M6         A2_OUT+ IN2- A2_N03029 A2_N03029 M2SK1044
R_A2_R1         A2_OUT- VCC  5k TC=0,0 
