* source MONTE CARLO ANALYSIS
V_V2         +12V 0 12Vdc
V_V3         -12V 0 -12Vdc
X_U1         N00283 N00287 +12V -12V OUT uA741
R_R1         0 N00287 R_R1 1k TC=0,0 
.model        R_R1 RES R=1 DEV=10% TC1=0 TC2=0
R_R4         N00279 N00283 R_R4 1k TC=0,0 
.model        R_R4 RES R=1 DEV=10% TC1=0 TC2=0
R_R3         N00272 N00279 R_R3 1k TC=0,0 
.model        R_R3 RES R=1 DEV=10% TC1=0 TC2=0
R_R2         N00287 OUT R_R2 1k TC=0,0 
.model        R_R2 RES R=1 DEV=10% TC1=0 TC2=0
C_C2         0 N00283 C_C2 1u  TC=0,0 
.model        C_C2 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
C_C1         OUT N00279 C_C1 1u  TC=0,0 
.model        C_C1 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
V_V1         0 N00272 DC 0Vdc AC 1Vac 
