* source 06
V_V1         IN 0  AC 1
+SIN 0 20m 10k 0 0 0
R_Rb1         N14526 VCC  33k TC=0,0 
R_Rb2         0 N14526  7k TC=0,0 
R_Rc         N14585 VCC  3.3k TC=0,0 
R_Re         0 N14589  1.3k TC=0,0 
R_RL         0 OUT  5.1k TC=0,0 
C_C1         IN N14526  10u  TC=0,0 
C_C2         N14585 OUT  10u  TC=0,0 
C_C3         0 N14589  50u  TC=0,0 
Q_Q1         N14585 N14526 N14589 Q2N3904
V_V2         VCC 0 12Vdc
