* source 06
V_V1         IN 0  
+SIN 0 5 1K 0 0 0
Q_Q1         VCC N00645 OUT Q2N3904
Q_Q2         VEE N00666 OUT Q2N3906
R_R1         0 OUT  1k TC=0,0 
V_V2         VCC 0 12Vdc
V_V3         VEE 0 -12Vdc
R_R2         N00666 VEE  2k TC=0,0 
R_R3         N00645 VCC  2k TC=0,0 
D_D3         N00645 IN D1N4148 
D_D4         IN N00666 D1N4148 
